US07687508B2
A stirring solution of (1R,2S,5R)-2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-5-(isopropyl(methyl)amino)cyclohexanecarboxylic acid (15.0 g, 0.0348 mol) in 1,4-dioxane (200 ml) was charged with N-methylmorpholine (5.26 g, 1.5 eq) and DPPA (14.3 g, 1.5 eq) at 0° C. The mixture was stirred at room temperature for 2 h. The mixture was charged with 2-(trimethylsilyl)ethanol (6.16 g, 1.5 eq) and then stirred for 2.5 h at 85° C. under the protection of nitrogen. The reaction was cooled to room temperature and the solvent was removed under reduced pressure. The resulting residue was dissolved in ethyl acetate (250 ml) and washed with saturated NaHCO3 (3×80 ml) and brine (3×80 ml). The solution was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue obtained was purified with silica gel column chromatography eluting with 1% and 2.5% of methanol in dichloromethane to give 2-(trimethylsilyl)ethyl (1R,2S,5R)-2-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-5-(isopropyl(methyl)amino)cyclohexylcarbamate (9.3 g, 49%). LC/MS found [M+H]+=547.

reactant | (1R,2S,5R)-2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-5-(isopropyl(methyl)amino)cyclohexanecarboxylic acid | 0.0348 mol, 15.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)C(=O)O)=O | C23H33N3O5
reactant | N-methylmorpholine | 5.26 g, 1.5 eq | CN1CCOCC1 | C5H11NO
reactant | DPPA | 14.3 g, 1.5 eq | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | 2-(trimethylsilyl)ethanol | 6.16 g, 1.5 eq | C[Si](CCO)(C)C | C5H14OSi
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 2-(trimethylsilyl)ethyl (1R,2S,5R)-2-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-5-(isopropyl(methyl)amino)cyclohexylcarbamate | 9.3 g, 49% | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)NC(OCC[Si](C)(C)C)=O)=O | C28H46N4O5Si
